US09193721B2
Step G: Methyl 8-chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-carboxylate
Methyl 5-chloro-2-(3-fluorophenyl)-6-[(formylamino)methyl]nicotinate (2.6 g, 8.5 mmol) was stirred in phosphoryl chloride (80 mL) and heated at 90° C. for 1 hour. Evaporation and purification by flash column chromatography with ethyl acetate in hexanes (0-100%) gave the desired compound (0.60 g, 40%). LCMS calculated for C15H11ClFN2O2 (M+H)+: m/z=305.1. found: 304.9. 1H NMR (300 MHz, DMSO-d6): δ 8.26 (s, 1H), 7.91 (s, 1H), 7.60 (m, 1H), 7.43 (m, 3H), 7.38 (m, 1H), 3.60 (s, 3H).

reactant | Methyl 5-chloro-2-(3-fluorophenyl)-6-[(formylamino)methyl]nicotinate | 8.5 mmol, 2.6 g | ClC=1C(=NC(=C(C(=O)OC)C1)C1=CC(=CC=C1)F)CNC=O | C15H12ClFN2O3
solvent | phosphoryl chloride | 80 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Methyl 8-chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-carboxylate | 0.60 g, 40% | ClC=1C=2N(C(=C(C1)C(=O)OC)C1=CC(=CC=C1)F)C=NC2 | C15H10ClFN2O2
